US06001849
28e 2-(1-BOC-2-(S)-pyrrolidinyl)-5-bromofuro[3,2-b]pyridine
A 1.84 g (6.10 mmol) sample of 6-bromo-2-iodo-3-pyridinol, from step 28d above, was dissolved in 10 mL of DMF, and (Ph3P)2PdCl2 (0.30 g, 0.4 mmol), CuI (0.3 g, 1.6 mmol) and triethylamine (1.2 mL, 8.5 mmol) were added. The mixture was stirred under N2 at room temperature for 1 hour, then 1.3 g (6.7 mmol) of 1-BOC-2-(S)-ethynylpyrrolidine, from Example 1c above, dissolved in 5 mL of DMF, was added carefully. The reaction was stirred at 80° C. for 16 hours, then cooled to room temperature. The reaction mixture was diluted with ether, then washed with 50% brine, and the extract was dried over MgSO4. The solvent was removed, and the residue was chromatographed on silica gel, eluting with 100:0 to 60:40 hexane:EtOAc to give 1.4 g of title compound: 1H NMR (CDCl3, 300 MHz) δ 1.31(s, 9H), 1.89-2.06 (m, 3H), 2.27-2.34 (m, 1H), 3.43-3.5 (m, 2H), 4.96-5.0 (m, 1H), 6.72 (s, 1H), 7.38-7.41 (d, 1H, J=8.6 Hz), 7.83-7.86 (d, 1H, J=8.6 Hz); MS m/z: 367 (M+H)+.

reactant | 6-bromo-2-iodo-3-pyridinol | BrC1=CC=C(C(=N1)I)O | C5H3BrINO
reactant | triethylamine | 8.5 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | 1-BOC-2-(S)-ethynylpyrrolidine | 6.7 mmol, 1.3 g | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C#C | C11H17NO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
catalyst | (Ph3P)2PdCl2 | 0.4 mmol, 0.30 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 1.6 mmol, 0.3 g | [Cu]I
product | 2-(1-BOC-2-(S)-pyrrolidinyl)-5-bromofuro[3,2-b]pyridine | 1.4 g | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C1=CC2=NC(=CC=C2O1)Br | C16H19BrN2O3
